* Z:\mnt\design.r\spice\examples\1682-5.asc
C1 N002 N004 .22µ
C2 N001 0 4.7µ
V1 IN 0 3.3
C3 OUT 0 2µ
Rload OUT 0 1K
C4 N003 0 1000p
XU1 OUT IN N003 0 N004 IN N002 N001 LTC1682-5
.tran 1m startup
.lib LTC1682-5.sub
.backanno
.end
